US07247727B2
The suspension of 5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-2-thioxo-thiazolidin-4-one (2.2 g, 8.22 mmol), iodomethane (1.05 mL, 16.8 mmol) and DIEA (3.0 mL, 16.8 mmol) in anhydrous ethanol (110 mL) was stirred at 100° C. for 2 h. After adding water (200 mL), the solid was collected by filtration, washed with water and dried to obtain 2-methylsulfanyl-5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-thiazol-4-one (1.48 g, 60.8%) as a grey solid. LC-MS m/e 276 (MH+).

reactant | 5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-2-thioxo-thiazolidin-4-one | 8.22 mmol, 2.2 g | N1C=C(C=2C1=NC=CC2)C=C2C(NC(S2)=S)=O | C11H7N3OS2
reactant | iodomethane | 16.8 mmol, 1.05 mL | IC | CH3I
reactant | DIEA | 16.8 mmol, 3.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 200 mL | O | H2O
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 2-methylsulfanyl-5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethylene)-thiazol-4-one | 1.48 g, 60.8% | CSC=1SC(C(N1)=O)=CC1=CNC2=NC=CC=C21 | C12H9N3OS2
